US08373159B2
ii) 3,6,9-Tris(triphenylsilyl)carbazole
tert-BuLi (1.7 M in pentane, 58 ml, 99 mmol) is added slowly to a cold solution (−78° C.) of 3,6-dibromo-9-triphenylsilylcarbazole (90% purity, see i), 13 g, 22 mmol) in dry THF (1000 ml). After stirring at −78° C. for two hours, ClSiPh3 (34 g, 115 mmol) in dry THF is added. The mixture is stirred overnight, and saturated NH4Cl solution is added. The resulting salt is filtered off, and the organic phase is separated from the aqueous phase. The aqueous phase is extracted with CH2Cl2. The organic phase is washed twice with water. The combined organic phases are dried over Na2SO4. After column chromatography (SiO2; 5:1 cyclohexane:CH2Cl2), the pure product is obtained (Rf˜0.3, 11 g, 53%).

reactant | tert-BuLi | 99 mmol, 1.7 M, 58 ml | [Li]C(C)(C)C
reactant | 3,6-dibromo-9-triphenylsilylcarbazole | BrC=1C=CC=2N(C3=CC=C(C=C3C2C1)Br)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C30H21Br2NSi
reactant | ClSiPh3 | 115 mmol, 34 g | Cl[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15ClSi
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 1000 ml | C1CCOC1 | C4H8O
product | 3,6,9-Tris(triphenylsilyl)carbazole | C1(=CC=CC=C1)[Si](C=1C=CC=2N(C3=CC=C(C=C3C2C1)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C66H51NSi3
